US04331678
Dimethylcarbamoyl chloride (10.7 g, 9.1 ml) was added to a solution of 3-t-butyl-5-(methylthio)pyrazole (17.0 g) and pyridine (8 ml) in benzene (100 ml). The reaction mixture was refluxed (at 80°) for 24 hours, allowed to cool, and washed with water (50 ml), 2 N HCl, (25 ml) and water again (50 ml). The organic layer was dried, and evaporated to give an oil which soon crystallised. Recrystallisation from petrol afforded 1-(dimethylcarbamoyl)-3-t-butyl-5-(methylthio)pyrazole, 15.1 g, 62% yield, of melting point 58°-60°.

reactant | Dimethylcarbamoyl chloride | 9.1 ml, 10.7 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 3-t-butyl-5-(methylthio)pyrazole | 17.0 g | C(C)(C)(C)C1=NNC(=C1)SC | C8H14N2S
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(dimethylcarbamoyl)-3-t-butyl-5-(methylthio)pyrazole | 62% yield | CN(C(=O)N1N=C(C=C1SC)C(C)(C)C)C | C11H19N3OS
